US07452893B2
To a solution of tert-butyl {[cis-4-(3-phenylpropanoyl)cyclohexyl]-methyl]carbamate (3.45 g, 10.0 mmol) in ethanol (65 ml) under nitrogen cooled in an ice-bath was added sodium borohydride (0.78 g, 21 mmol). The mixture was stirred two hours at ice-bath temperature. The reaction was quenched by addition saturated sodium bicarbonate solution (30 ml). The mixture was concentrated under reduced pressure to remove ethanol. The aqueous residue was diluted with water (15 ml) and extracted with ethyl acetate (3×60 ml). The extract was washed with water (20 ml), and brine (20 ml), dried (sodium sulfate), filtered, and the solvent evaporated under reduced pressure to give crude (±)-tert-butyl {[cis-4-(1-hydroxy-3-phenylpropyl)cyclohexyl]methyl)carbamate (3.64 g, theoretical yield 3.48 g) as a colorless gum. MS: 348.3 (M+1).

reactant | tert-butyl {[cis-4-(3-phenylpropanoyl)cyclohexyl]-methyl]carbamate | 10.0 mmol, 3.45 g | C1(=CC=CC=C1)CCC(=O)[C@H]1CC[C@H](CC1)CNC(OC(C)(C)C)=O | C21H31NO3
reactant | sodium borohydride | 21 mmol, 0.78 g | [BH4-].[Na+]
solvent | ethanol | 65 ml | C(C)O | C2H6O
product | (±)-tert-butyl {[cis-4-(1-hydroxy-3-phenylpropyl)cyclohexyl]methyl)carbamate | 3.64 g | OC(CCC1=CC=CC=C1)[C@H]1CC[C@H](CC1)CNC(OC(C)(C)C)=O | C21H33NO3
